US04309351
A solution of ethyl 2-fluorocaproate (AX, R=n-pentyl) prepared in accordance with the method of Elkik and Assadi-Far, Compt. Rend. Series C, 262 (9) 763 (1966), (9.50 g, 58.6 mmol) in 45 ml of dry hexane was cooled under N2 to -75° in a 300 ml round bottom flask equipped with a 50 ml pressure-equalized addition funnel. Into the funnel was injected through a rubber septum, a solution of diisobutyl aluminum hydride in 30 ml of hexane, prepared from 15 ml of 1.2 molar diisobutyl aluminum hydride in toluene by evaporating the toluene in vacuo and replacing it by hexane. After addition of the diisobutyl aluminum hydride solution over a 35 min period the mixture was stirred magnetically for 5 hr at -70°±3°. At the same temperature 75 ml of 10% HCl was then added dropwise, the dry ice-acetone bath removed and stirring continued until a homogeneous solution resulted. After saturation with NaCl the aqueous solution was extracted with 3 100 ml portions of CH2Cl2. The combined extracts were washed with saturated sodium chloride (3×25 ml) and dried over anhydrous MgSO4. The solvent was removed in vacuo leaving a liquid residue which after distillation gave 6.04 g of 2-fluorohexanal hydrate (AXI, R=n-pentyl), bp 70°-80° at 167 mm. Various other side chains, i.e. Compounds AIII, wherein R=alkyl or alkenyl, may be prepared by variation of the Elkik and Assadi-Far procedure as is well recognized to the skilled worker.

reactant | ethyl 2-fluorocaproate | FC(C(=O)OCC)CCCC | C8H15FO2
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutyl aluminum hydride | 1.2 molar, 15 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | hexane | 45 ml | CCCCCC | C6H14
solvent | hexane | 30 ml | CCCCCC | C6H14
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-fluorohexanal hydrate | 6.04 g | O.FC(C=O)CCCC | InChI=1S/C6H11FO.H2O/c1-2-3-4-6(7)5-8;/h5-6H,2-4H2,1H3;1H2
